US05036075
A solution of naphtho[1,8-cd]isothiazole 1,1-dioxide (3.25 g) in dimethylformamide (50 cc) is poured over 30 minutes into a mixture of sodium hydride (0.76 g) in a 50% dispersion in vaseline oil and dimethylformamide (10 cc), under a current of argon. The reaction medium is stirred for 2 hours at a temperature of about 20° C. 1-(4-bromo-2-butyl)-4-(4-fluorophenyl)piperazine (5 g) in dimethylformamide (100 cc) is added over 10 minutes. The reaction mixture is stirred for 15 hours at a temperature close to 20° C., then concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residual oil is purified by flash-chromatography on silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and ethyl acetate (80-20 vol) as eluant. After recrystallization from boiling acetonitrile (13 cc), 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]butyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (1.8 g) is obtained, m.p. 122° C.

reactant | naphtho[1,8-cd]isothiazole 1,1-dioxide | 3.25 g | S1(NC2=C3C1=CC=CC3=CC=C2)(=O)=O | C10H7NO2S
reactant | sodium hydride | 0.76 g | [H-].[Na+]
reactant | 1-(4-bromo-2-butyl)-4-(4-fluorophenyl)piperazine | 5 g | BrCCC(C)N1CCN(CC1)C1=CC=C(C=C1)F | C14H20BrFN2
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]butyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 1.8 g | FC1=CC=C(C=C1)N1CCN(CC1)C(CCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)C | C24H26FN3O2S
